Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Weight gain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
.
The patient is a ___ year-old man with h/o ESLD ___ HCV 
cirrhosis, c/b portal hypertension with ascites, hepatic 
encephalopathy and recent admission for ARF, hyponatremia and 
volume overload who now presents from transplant clinic with 
weight gain since discharge (please refer to d/c summary of 
___ for detailed prior history). In summary, the patient was 
admitted from ___ to ___ with hyponatremia and volume overload 
believed to be secondary to dietary and medication 
non-complaince at home. Interventions during his hospital course 
included decreases dose of diuretics, Na restriction and 
increased tolvaptan dose. Sodium trended to 125 by the time of 
discharge.
.
Since discharge from the hospital, patient states that he has 
been consuming a diet low in sodium and compliant with all of 
his medications, including diuretics. He endorses increased 
swelling in his ankles and feet since discharge from the 
hospital. Additionally, he reports persistent fatigue. He denies 
fevers/chills, abdominal pain, diarrhea, change in bowel habits, 
nausea/vomiting.
.
Review of systems is positive for ongoing shortness of breath 
and intermittent chest pain. Shortness of breath is most 
pronounced with exertion. Chest pain is described as substernal 
and sharp in nature, worsened by food intake. Endorses 
occasional PND and orthopnea.
.
 
Past Medical History:
-HCV (genotype 1) cirrhosis complicated by hyponatremia, 
ascites, and hepatic encephalopathy
-obesity  
-hypertension  
-Insulin-dependent diabetes  
-CVA with no residual deficits  
-dyslipidemia  
-neuropathy  
-osteoarthritis of the knees  
-spinal stenosis w/ disk herniation and disc fragments in the 
canal resulting in permanent diability and foot drop  
-right lower extremity nerve impingement.  
-PAD  
-h/o hypomagnesemia  
-COPD  
-anxiety  
-h/o kidney stones  
-Past heavy ETOH use, quit ___  
-s/p right wrist tendon repair after a plate-glass injury ___  

 
Social History:
___
Family History:
Positive for HTN and CAD as well as CVAs.  No family history of 
liver disease.  
 

 
Physical Exam:
PHYSICAL EXAMINATION:
VS - Temp 96.6 F, BP 141/70, HR 81, R 20, O2-sat 99% RA
GENERAL - NAD, appropriate. A+OX2 (unable to state date). Unable 
to perform months of the year backwards.
HEENT - +sclerae icteric, MMM, OP clear
NECK - supple, no elevation of JVP
LUNGS - mild R basilar crackles, CTA bilat otherwise. Resp 
unlabored, no accessory muscle use
HEART - PMI non-displaced, RRR, ___ holosystolic murmur. Nl 
S1-S2
ABDOMEN - Obese, NABS, mild distention. no rebound/guarding. 
Minimal ascites appreciated. +Subcutaneous abdominal edema.
EXTREMITIES - 2+ edema to level of thigh. 1+ peripheral pulses 
(radials, DPs).
NEURO - awake, A&Ox2, +asterixis.
 
Pertinent Results:
Labs on Admission:
___ 05:00PM BLOOD WBC-5.7 RBC-2.54* Hgb-8.3* Hct-23.6* 
MCV-93 MCH-32.6* MCHC-35.1* RDW-18.6* Plt Ct-91*
___ 05:00PM BLOOD ___ PTT-44.7* ___
___ 05:00PM BLOOD Glucose-125* UreaN-19 Creat-0.9 Na-120* 
K-4.7 Cl-91* HCO3-26 AnGap-8
___ 05:00PM BLOOD ALT-68* AST-93* AlkPhos-143* TotBili-8.5*
___ 05:00PM BLOOD Calcium-8.5 Phos-3.0 Mg-1.8
.
Labs on Discharge:
___ 06:35AM BLOOD WBC-5.3 RBC-2.56* Hgb-8.1* Hct-23.4* 
MCV-92 MCH-31.5 MCHC-34.4 RDW-19.0* Plt Ct-89*
___ 06:35AM BLOOD ___ PTT-49.4* ___
___ 06:35AM BLOOD Glucose-148* UreaN-22* Creat-1.0 Na-125* 
K-5.1 Cl-93* HCO3-27 AnGap-10
___ 06:35AM BLOOD ALT-58* AST-85* AlkPhos-125 TotBili-9.6*
___ 06:35AM BLOOD Albumin-2.9* Calcium-8.4 Phos-3.4 Mg-2.1
___ 04:55AM BLOOD calTIBC-246* Ferritn-29* TRF-189*
.
Microbiology:
Blood Culture: negative
Urine Culture: negative
.
Liver Ultrasound:
Minimal fluid in the abdominal cavity, not amenable to 
diagnostic paracentesis.
 
Brief Hospital Course:
___ yo man with history of HCV cirrhosis (genotype 1, never 
treated), c/b ascites, extremity edema, HE (no known varices, 
last EGD as OSH ___, DM/ HTN/HL, CVA, PVD, COPD, neuropathy 
and MMP who presents to ___ with weight gain, lower extremity 
swelling, and fatigue since discharge.
.
#. Hyponatremia: Admission labs demonstrated Na 120, down from 
125 at recent discharge. Patient reported increase in  weight 
since discharge. He had profound edema in ___ and in the abdomen 
(subcutaneous) with minimal ascites (insufficient for the tap).  
The impression was that his overall fluid status was partially 
due to cirrhosis, however with a component of RHF (question 
cirrhotic CM vs. pulm HTN or combination). His Na improved to 
125 with fluid restriction (<1200 cc) and discontinuation of 
diuretics.  He had a moderate self diuresis of 2L despite 
holding diuretics. He was continued on Tolvaptan at prior dose. 
He was discharged home with plans for outpatient echo and 
outpatient sleep study. He was also set up with cardiology 
follow-up.  He was discharged off the diuretics given the 
hyponatremia and will be continued on Tolvaptan. 
.
#. Encephalopathy: Likely hepatic encephalopathy.  No clear 
localizing symptoms to suggest infectious precipitant. Urine 
culture and blood culture were negative. Insufficient ascites to 
perform paracentesis. Reported compliance with medications at 
home, including lactulose. Symptoms improved with titrate 
lactulose and rifaximin to ___ BM daily.
.
#. Anemia. Normocytic. Likely multifactorial, but never fully 
evaluated (no Fe studies, Folate/B12/TSH wnl recently). Will 
likely need EGD and Colonoscopy at some point for further 
evaluation.
.
#. HCV Cirrhosis. Hx of decompensation, now w/ evidence of 
enceophalopathy. LFTs and bili stable. Cr at 0.9. No PVT on last 
US w/ similar presentation, thus limited utility in this case.
.
 
Medications on Admission:
- lactulose (30) ML PO QID
- oxycodone ___ mg PO Q6H prn pain
- doxepin 25 mg bedtime
- insulin glargine 29 Subcutaneous at bedtime, increased from 
26.
- Combivent ___ mcg ___ puffs four times a day
- pantoprazole 40 mg Tablet
- rifaximin 550 mg daily
- simvastatin 40 mg bedtime
- ursodiol 300 mg TID
- magnesium oxide 400 mg TID
- simethicone 125 mg QID prn indigestion.
- metformin 850 mg BID
- ergocalciferol (vitamin D2) 50,000 unit weekly
- ondansetron 4 mg Tablet PO Q8H as needed for nausea.
- furosemide 60 mg daily (decreased from 80mg on last admission)
- spironolactone 75 mg daily (decreased from 150mg last 
admission)
- tolvaptan 60 mg daily (increased from 30mg)
 
Discharge Medications:
1. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO QID (4 
times a day).  
2. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q6H (every 6 hours) 
as needed for pain.  
3. doxepin 25 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
4. insulin glargine 100 unit/mL Solution Sig: ___ (29) 
units Subcutaneous at bedtime.  
5. ipratropium-albuterol ___ mcg/Actuation Aerosol Sig: ___ 
Puffs Inhalation four times a day.  
6. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
7. rifaximin 550 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
8. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. ursodiol 300 mg Capsule Sig: One (1) Capsule PO TID (3 times 
a day).  
10. magnesium oxide 400 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).  
11. simethicone 125 mg Tablet Sig: One (1) Tablet PO four times 
a day as needed for indigestion.  
12. metformin 850 mg Tablet Sig: One (1) Tablet PO twice a day.  

13. ergocalciferol (vitamin D2) 50,000 unit Capsule Sig: One (1) 
Capsule PO once a week.  
14. ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
15. tolvaptan 30 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
16. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily) for 3 months.
Disp:*90 Tablet(s)* Refills:*0*
17. Outpatient Lab Work
Please have the following labs check on ___: Complete 
Metabolic Panel. Please have the results faxed to Dr. ___ 
(___) at ___. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary Diagnosis:
- Hyponatremia
Secondary Diagnosis:
- Cirrhosis
- Cirrhosis Cardiomyopathy
- Diabetes Mellitus

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you at ___ 
___. You were admitted to the hospital with worsening 
swelling in your legs and low blood sodium level. You were 
placed on a fluid and salt restricted diet and your water pills 
were held. Your blood sodium level improved overnight.
.
Please STOP the following medications after discharge:
SPIRONOLACTONE 
LASIX
.
Please START the following medication after discharge:
FERROUS SULFATE (Iron)
.
Please continue all other medications as they have been 
prescribed. Please restrict your fluid intake as discussed 
below. Should you experience any symptoms that concern you after 
leaving the hospital, please call your doctor or return to the 
emergency room.

You were also arranged follow up with several other specialists 
(see below).  Please ensure to follow up with them and your 
liver team.
 
Followup Instructions:
___